US20010056105A1
(b) Methyl 4-ethynyl-2-hydroxybenzoate
3.07 g (12.4 mmol) of methyl 4-trimethylsilanylethynyl-2-hydroxybenzoate are mixed, in a 500 ml three-necked flask, with 50 ml of THF, and 13.7 ml of a tetrabutylammonium fluoride solution (1 M /THF) are added dropwise. The reaction medium is stirred for 1 h at room temperature and is then poured into water and extracted with ethyl ether. After separation of the phases by settling, the organic phase is dried over magnesium sulphate and concentrated.

reactant | methyl 4-trimethylsilanylethynyl-2-hydroxybenzoate | 12.4 mmol, 3.07 g | C[Si](C)(C)C#CC1=CC(=C(C(=O)OC)C=C1)O | C13H16O3Si
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1 M, 13.7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | Methyl 4-ethynyl-2-hydroxybenzoate | C(#C)C1=CC(=C(C(=O)OC)C=C1)O | C10H8O3
